US04954162
75 g (0.55 mol) of trifluoromethylsulphenyl chloride are added at 20 to 25° C. with stirring to a solution of 43 g (0.2 mol) of 3-chloropropyl-2,4-difluorophenyl ketone in 100 ml of methylene chloride. The mixture is stirred at room temperature for 108 hours and then concentrated by stripping off the solvent under reduced pressure. 63 g of (3-chloro-1-trifluoromethylmercapto-propyl)-2,4-difluorophenyl ketone are obtained.

reactant | trifluoromethylsulphenyl chloride | 0.55 mol, 75 g | FC(SCl)(F)F | CClF3S
reactant | 3-chloropropyl-2,4-difluorophenyl ketone | 0.2 mol, 43 g | ClCCCC=1C(=C(C=CC1F)C(=O)C1=C(C(=C(C=C1)F)CCCCl)F)F | C19H16Cl2F4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (3-chloro-1-trifluoromethylmercapto-propyl)-2,4-difluorophenyl ketone | 63 g | ClCCC(SC(F)(F)F)C=1C(=C(C=CC1F)C(=O)C1=C(C(=C(C=C1)F)C(CCCl)SC(F)(F)F)F)F | C21H14Cl2F10OS2
